US08471005B2
N-tert-Butyl-3-{2-[3-(2-morpholin-4-yl-ethoxy)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide
Prepared by following a procedure analagous to Example 251c by using 3-(2-Morpholin-4-yl-ethoxy)-phenylamine and N-tert-Butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide as a triflate salt. 1H-NMR (DMSO) δ 9.9 (br s, 1H), 9.6 (s, 1H), 9.15 (s, 1H), 8.5 (s, 1H), 8.4 (d, J=8.0 Hz, 1H), 7.9 (d, J=8.0 Hz, 1H), 7.75 (m, 1H), 7.6 (s, 1H), 7.55 (d, J=8.3 Hz, 1H), 7.3 (m, 2H), 7.2 (d, J=4.7 Hz, 1H), 7 (d, J=4.7 Hz, 1H), 6.7 (d, J=10.4 Hz, 1H), 4.3-3.3 (m, 12H), 1.1 (s, 9H); LC/MS (ESI+): 551 (M+H).

reactant | 3-(2-Morpholin-4-yl-ethoxy)-phenylamine | N1(CCOCC1)CCOC=1C=C(C=CC1)N | C12H18N2O2
reactant | N-tert-Butyl-3-(2-methanesulfinyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)S(=O)C | C17H20N4O3S2
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
product | N-tert-Butyl-3-{2-[3-(2-morpholin-4-yl-ethoxy)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)OCCN2CCOCC2 | C28H34N6O4S
